US09193707B2
6. Synthesis of 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed Palladium carbon (10%) (200 mg), methanol (10 mL) and 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline (800 mg, 2.97 mmol, 1.00 equiv). To the above H2 (enough, amount) was introduced in. The resulting solution was stirred for 2 h at room temperature. The solids were filtered out. The resulting solution was diluted with 12 mL of tetrahydrofuran. To this was HCl (gas) (enough amount) was introduced in. The resulting mixture was concentrated under vacuum. The solids were collected by filtration. The filter cake was washed with 2×20 mL of dichloromethane. This resulted in 0.5 g (crude) of 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride as a off-white solid. 1H NMR (300 MHz, DMSO-d6) δ 2.88-3.92 (t, 2H), 3.40-3.44 (t, 2H), 3.77 (s, 3H), 4.20 (s, 2H), 6.68-6.70 (d, 1H), 6.88-6.91 (d, 1H); MS (ESI) m/z 180 ([M+H]+).

reactant | 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 2.97 mmol, 800 mg, 1.00 equiv | C(C1=CC=CC=C1)OC1=C2CCNCC2=CC=C1OC | C17H19NO2
catalyst | Palladium carbon | 200 mg | [C].[Pd]
solvent | methanol | 10 mL | CO | CH4O
product | 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline | OC1=C2CCNCC2=CC=C1OC | C10H13NO2
